US05958942
i) Synthesis of 2-phenyl-5-hydroxymethylimidazo[1,2-a]pyridine
To a solution of 3.14 g (11.79 mmol) of ethyl ester of 2-phenylimidazo[1,2-a]pyridine-5-carboxylic acid was added, under ice-cooling, 1.34 g (35.37 mmol) of sodium borohydride. The mixture was stirred for 3 hours under ice-cooling. The reaction mixture was poured into 150 ml of ice-water, which was sufficiently blended. To the mixture was added 12N HCl until the pH reached 2. This solution was stirred for two hours at room temperature, which was neutralized with a 6N aqueous solution of NaOH. The solvent was then completely distilled off under reduced pressure. To the residue was added 200 ml of methanol. The mixture was sufficiently blended, then insolubles were filtered off. The solvent was distilled off under reduced pressure to leave 1.37 g of a crude product (52.0%, white solid). This crude product was used in the subsequent reaction without purification.

reactant | 2-phenylimidazo[1,2-a]pyridine-5-carboxylic acid | C1(=CC=CC=C1)C=1N=C2N(C(=CC=C2)C(=O)O)C1 | C14H10N2O2
reactant | sodium borohydride | 35.37 mmol, 1.34 g | [BH4-].[Na+]
reactant | HCl | 12N | Cl | ClH
reactant | NaOH | [OH-].[Na+]
product | 2-phenyl-5-hydroxymethylimidazo[1,2-a]pyridine | 1.37 g, 52.0% | C1(=CC=CC=C1)C=1N=C2N(C(=CC=C2)CO)C1 | C14H12N2O
